US04585775
(b1) N-2-Picolylidene-o-nitroaniline
27.6 g of o-nitroaniline and 21.4 g of 2-pyridine aldehyde are heated in 200 ml of toluene for 10 hours, and the water formed is collected by means of a water separator. 500 ml of diethyl ether are then added to the solution, and the crystals which precipitate are filtered off with suction.

reactant | o-nitroaniline | 27.6 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 2-pyridine aldehyde | 21.4 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-2-Picolylidene-o-nitroaniline | N1=C(C=CC=C1)C=NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9N3O2
